US08440829B2
8-Bromo-1-[(2S)-2-methoxypropyl]-3H-imidazo[4,5-c]quinolin-2-one
Suspend 6-bromo-4-[[(2S)-2-methoxypropyl]amino]quinoline-3-carboxylic acid (510 g, 1.5 mol) in dimethylformamide (7.65 L) and add triethylamine (419 mL, 3 mol, 2 eq.) at 70° C. Add diphenylphosphonic azide (390 mL, 1.8 mol., 1.2 eq.) dropwise over 30 minutes. Heat the mixture to 70° C. (internal temperature) for 1 hour. Cool to 10° C. and dilute with water (5 L). Stir the mixture for 1 hour, filter the precipitate, wash it with water (2×1 L) and methyl tert-butyl ether (2×1 L), and then let it dry to give the titled compound as a white solid (445 g, 88%). MS (ESI) m/z (M+H)+335.9, 337.9.

reactant | 6-bromo-4-[[(2S)-2-methoxypropyl]amino]quinoline-3-carboxylic acid | 1.5 mol, 510 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)NC[C@H](C)OC | C14H15BrN2O3
reactant | triethylamine | 3 mol, 419 mL, 2 eq. | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphonic azide | 1.8 mol, 390 mL, 1.2 eq. | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
solvent | dimethylformamide | 7.65 L | CN(C=O)C | C3H7NO
solvent | water | 5 L | O | H2O
product | 8-Bromo-1-[(2S)-2-methoxypropyl]-3H-imidazo[4,5-c]quinolin-2-one | 445 g, 88% | BrC1=CC=2C3=C(C=NC2C=C1)NC(N3C[C@H](C)OC)=O | C14H14BrN3O2
